US09029399B2
Preparation of Intermediate 4-chloro-2-cyclopropylpyrimidine (I-43a)
POCl3 (5 mL) was added to 2-cyclopropylpyrimidin-4-ol (100 mg, 0.735 mmol) and refluxed at 150° C. for 2.5 hours. The resulting mixture was concentrated, the concentrate was basified with dilute sodium bicarbonate solution and diluted with DCM. The organic layer was washed with brine, dried over sodium sulphate and concentrated to afford 125 mg of the crude product as a pale brown liquid.

reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-cyclopropylpyrimidin-4-ol | 0.735 mmol, 100 mg | C1(CC1)C1=NC=CC(=N1)O | C7H8N2O
product | 4-chloro-2-cyclopropylpyrimidine | 125 mg | ClC1=NC(=NC=C1)C1CC1 | C7H7ClN2
